Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
aspirin / Blue Dyes / clindamycin / lidocaine / prednisone / 
Tamiflu / Lincocin
 
Attending: ___
 
Chief Complaint:
gastric obstruction 
 
Major Surgical or Invasive Procedure:
___ - EGD with biopsies
___ - J-tube replacement
___ - EUS with biopsies

 
History of Present Illness:
Patient is a ___ with mental retardation (non-verbal) and a 
history of quadraplegia, hypothyroidism, and GI dysmotility with 
a recent history of C. diff who presented to an OSH with 
recurrent aspiration pneumonia that may be ___ large duodenal 
polyp causing gastric outlet obstruction or pseudo-obstruction.

Regarding his GI history: he had history of an EGD ___ 
and ___. He is followed by the Southcoast GI (Dr. ___ and 
General Surgery (Dr. ___ services. In ___, it was decided that 
the polyp was not amenable to endoscopic resection and the 
location would likely require a tertiary care referral for 
likely surgical resection. He had a laproscopic tube jejunostomy 
___ and an exploratory laparotomy, segmental sigmoidectomy for 
redundant sigmoid (probable chronic volvulus) and replacement 
tube jejunostomy ___. He had a jejunostomy change again on 
___. He was subsequently admitted multiple times to ___
with nausae and vomiting, ileus/CIPO and C. Diff Colitis. 

More recently, he had a previously hospitalization at ___ 
___ from ___ with aspiration pneumonia, sepsis, 
intubation for respiratory failure, prolonged ICU stay and C. 
Diff colitis. He was re-admitted to ___ from his 
group home with an aspiration pneumonia after he was found to
have vomited, desaturated to the ___ and was febrile to ___. He 
was initially treated with meropenem x 3 days then switched to 
flagyl to complete an empiric 10 day course (___). He is 
s/p 21 day course of PO vancomycin for C. diff. He had a CT that 
showed questionable mesenteric volvulus or internal hernia, as
well as diffuse colonic distention which was likely ileus. He 
stabilized from a respiratory standpoint, was weaned off oxygen 
and restarted on his home medications. J-tube feedings were 
successfully restarted. The patient was transferred to ___ for 
advanced endoscopy vs surgical evaluation for polyp resection. 

REVIEW OF SYSTEMS: Patient non-verbal at baseline
 
Past Medical History:
- Hypothyroidism
- Recent C. diff s/p treatment (apparently recurrent)
- HCC 
- HTN
- Pulmonary Nodule 
- Aspiration pneumonia due to recurrent gastric outlet 
obstruction
- developmental delay (non-verbal at baseline)
- reported paraplegia
- GI dysmotility 
- gastric outlet obstruction or pseudo-obstruction thought to be 
due to duodenal hyperplasia

PAST SURGICAL HISTORY:
- Exlap ___
- J-tube ___
- Gastrostomy ___
- TURP 
- ORIF R Hip
 
Social History:
___
Family History:
Unknown. Patient has guardian, no known family.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: 24 HR Data (last updated ___ @ 2313)
    Temp: 97.5 (Tm 97.5), BP: 91/55, HR: 57, RR: 16, O2 sat: 
95%,
O2 delivery: Ra, Wt: 125.22 lb/56.8 kg  
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: rrr, no murmurs/rubs/gallops.
LUNGS: No increased work of breathing, bilateral crackles 
present, no wheeze
BACK: No spinous process tenderness. No sacral ulcer.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants. G-tube and J-tube w/ dressing 
c/d/i. He has a J tube (nutrition) and a chronic PEG tube 
(medication). 
EXTREMITIES: Pulses DP/Radial 2+ bilaterally. No edema.
SKIN: Warm. Cap refill <2s. No rash. Minimal skin breakdown over
the elbows b/l. Minimal skin changes over the sacrum with some
erythema. 
NEUROLOGIC: Recoils to pain. Does not track. 

DISCHARGE PHYSICAL EXAM
========================
VITALS: 24 HR Data (last updated ___ @ 1125)
    Temp: 97.6 (Tm 98.7), BP: 94/54 (94-148/54-89), HR: 59
(57-115), RR: 18 (___), O2 sat: 89% (66-100), O2 delivery: Ra
(1L-6L), Wt: 120.37 lb/54.6 kg  
GENERAL: awake and alert; frail and cachectic but nontoxic and
NAD. 
HEENT: Dry, peeling lips
LUNGS: No increased work of breathing, lung CTAB on anterior 
exam
ABDOMEN: G-tube (medication) and J-tube (nutrition) w/ dressing
c/d/i. Nontender, nondistended, no r/g
EXTREMITIES: No edema.
NEUROLOGIC: Does not follow specific commands. Face grossly
symmetric. Moving upper extremities against gravity.

 
Pertinent Results:
ADMISSION, PERTINENT INTERVAL, DISCHARGE LABS
==============================================
___ 05:57AM BLOOD WBC-6.5 RBC-3.85* Hgb-11.5* Hct-35.1* 
MCV-91 MCH-29.9 MCHC-32.8 RDW-17.5* RDWSD-56.6* Plt ___
___ 11:59PM BLOOD Glucose-89 UreaN-21* Creat-0.7 Na-133* 
K-5.1 Cl-95* HCO3-27 AnGap-11
___ 05:57AM BLOOD ALT-16 AST-23 AlkPhos-126 TotBili-0.3
___ 08:14AM BLOOD Calcium-9.1 Phos-4.1 Mg-2.2
___ 05:57AM BLOOD Iron-55
___ 05:57AM BLOOD calTIBC-315 Ferritn-185 TRF-242
___ 08:14AM BLOOD WBC-7.1 RBC-3.55* Hgb-10.6* Hct-32.7* 
MCV-92 MCH-29.9 MCHC-32.4 RDW-17.5* RDWSD-58.4* Plt ___
___ 08:14AM BLOOD Glucose-75 UreaN-16 Creat-0.8 Na-139 
K-4.6 Cl-100 HCO3-25 AnGap-14
___ 08:00AM BLOOD WBC-3.9* RBC-3.63* Hgb-10.9* Hct-34.3* 
MCV-95 MCH-30.0 MCHC-31.8* RDW-17.9* RDWSD-63.0* Plt ___
___ 08:00AM BLOOD Glucose-119* UreaN-10 Creat-0.7 Na-139 
K-4.3 Cl-99 HCO3-27 AnGap-13
___ 08:14AM BLOOD CEA-4.1*
___ 08:14 CA ___: 16 (Reference:  <34 U/mL)

IMAGING
======================================
___ EGD: Irregular z-line in the GEJ. Previously placed 
gastrostomy tube is noted in the stomach antrum. Mass (3 cm) in 
the proximal first part of duodenum and just distal to the 
antrum (biopsy). Recommendations: f/up biopsy results (see 
below), mass is not amenable to endoscopic removal. If felt to 
be etiology of patients intermittent obstruction and w/in ___, 
patient would need surgical evaluation for possible resection.

___ IMPRESSION:
1. 2.4 x 2.1 cm luminal lesion in the first/second portion of 
the duodenum, without evidence of gastric outlet obstruction on 
the current study. 
2. Diffuse distension of colonic loops with fluid and gas, 
minimally changed 
compared to prior.  This likely reflects a degree of underlying 
ileus, but 
there is no evidence of bowel obstruction. 
3. Interval improvement in bibasilar airspace opacities compared 
to ___. 

___ PERC G/J TUBE CHECK/REPOSITION: 
IMPRESSION:
1. Successful exchange of a jejunostomy tubes for a new 14 
___ mic 
jejunostomy 2. 
2. Appropriately positioned indwelling G-tube that is ready for 
use. 
  
RECOMMENDATION(S):  Both tubes are ready for use. 

___ EUS:
1. Normal esophagus
2. A previously placed gastrostomy tube is noted in the stomach 
antrum. J-shaped stomach. Passage of EUS scope was difficult and 
required passage of the scope over a jagwire through esophagus 
and to pylorus.
3. Benign appearing polypoid tissue was noted in the duodenum 
consistent with known gastric heterotopia. Additional 
bite-on-bite cold forceps biopsies were obtained. EUS was 
performed using a linear echoendoscope at a frequency of ___ MHz 
and 10 mHz. Because of the very J-shaped stomach, the EUS scope 
could not be advanced fully into the duodenal bulb even with the 
presence of a wire. Transpyloric EUS views showed some mild 
mucosal thickening but no evidence of mass. 

___ CXR:
Interstitial abnormality is unchanged.  Cardiomediastinal 
silhouette is 
stable.  There is no pleural effusion.  No pneumothorax is seen. 
There is 
diffuse dilatation of the bowel loops.  No pneumothorax. 

___ CT A/P WITHOUT CONTRAST:
1. Persistent mildly worsened ileus with no definite evidence 
bowel 
obstruction.  Contrast has passed through the whole large bowel. 
 The terminal ileum is relatively collapsed with the smooth 
transition between it and more proximal dilated bowel.  In this 
area bowel seem somewhat stretched so there may be adhesions.  
Mild partial or intermittent obstruction is hard to entirely 
exclude accordingly but overall findings are most suggestive of 
ileus.  Follow-up radiographs could be pursued if there is any 
persistent clinical concern for developing or intermittent 
obstruction. 
2. Interval worsening of diffuse bilateral centrilobular nodular 
opacities 
with new peripheral consolidations/atelectasis since the prior 
CT.  Sequela of aspiration should be considered. 
  
___ KUB:
Dilated loops of small and large bowel, most consistent with 
ileus.

MICROBIOLOGY
======================================

___ 1:22 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      PSEUDOMONAS AERUGINOSA.    10,000-100,000 CFU/mL. 
         Piperacillin/Tazobactam test result performed by ___ 
___. 
      ENTEROCOCCUS SP..    10,000-100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |          ENTEROCOCCUS SP.
                             |          |   
AMPICILLIN------------             =>32 R
CEFEPIME--------------     4 S
CEFTAZIDIME-----------    16 I
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
LINEZOLID-------------                2 S
MEROPENEM-------------     1 S
NITROFURANTOIN--------              128 R
PIPERACILLIN/TAZO-----       I
TETRACYCLINE----------              <=1 S
TOBRAMYCIN------------   <=1 S
VANCOMYCIN------------             =>32 R

___ 9:30 am STOOL     CONSISTENCY: FORMED      Source: 
Stool. 

                            **FINAL REPORT ___

   C. difficile PCR (Final ___: 
      Reported to and read back by ___ ON ___ 
AT 2:20PM. 
      POSITIVE.              (Reference Range-Negative). 
         The C. difficile PCR is highly sensitive for toxigenic 
strains of
         C. difficile and detects both C. difficile infection 
(CDI) and
         asymptomatic carriage. Therefore, positive C. diff PCR 
tests
         trigger reflex C. difficile toxin testing, which is 
highly
         specific for CDI. 

   C. difficile Toxin antigen assay (Final ___: 
      NEGATIVE.              (Reference Range-Negative).  
PERFORMED BY EIA. 
         This result indicates a low likelihood of C. difficile 
infection
         (CDI). 

___ 10:05 am MRSA SCREEN      Source: Nasal swab. 

                            **FINAL REPORT ___

   MRSA SCREEN (Final ___: 
      POSITIVE FOR METHICILLIN RESISTANT STAPH AUREUS. 

PATHOLOGY
======================================
___: Duodenum, mass, biopsy:
-Gastric heterotopia.
-Negative for malignancy or dysplasia.

___: Duodenum, mass, biopsy:
Unremarkable corpus type gastric mucosa consistent with gastric
heterotopia. Benign

DISCHARGE/INTERVAL LABS
=========================
___ 05:44AM BLOOD WBC-4.4 RBC-3.95* Hgb-11.8* Hct-36.2* 
MCV-92 MCH-29.9 MCHC-32.6 RDW-16.6* RDWSD-56.2* Plt ___
___ 05:44AM BLOOD Glucose-110* UreaN-14 Creat-0.8 Na-137 
K-4.4 Cl-96 HCO3-31 AnGap-10
___ 05:44AM BLOOD Calcium-9.4 Phos-3.0 Mg-2.___ with mental retardation, CP with quadriplegia, recent C. 
diff treatment, history of recurrent aspiration pneumonia, s/p 
PEG (medications) s/p J-tube (nutrition) with chronic GI 
dysmotility and a large duodenal polyp who presents as a 
transfer with intermittent gastric outlet obstruction from 
___. EGD and biopsies of duodenal mass 
were taken which showed gastric heterotopia, negative for 
malignancy or dysplasia. 

ACUTE ISSUES
=============
#Large duodenal polyp with intermittent gastric outlet 
obstruction
#J tube dysfunction.
#Chronic ileus. Patient underwent EGD on ___ showing 
post-pyloric polyp. Biopsies were taken of the duodenal mass 
showing gastric heterotopia, negative for malignancy or 
dysplasia. He also underwent EUS on ___ with repeat benign 
biopsies. Patient was seen by the hepatobiliary surgical team 
for his duodenal mass and discussed in the multidisciplinary 
conference extensively. Essentially, he would require a gastric 
antrectomy with reconstruction to remove this polyp, which would 
also predispose him to an even higher risk of reflux and 
aspiration.  Given the benign pathology of the polyp, available 
surgical options, and his overall functional status, the 
benefits of this operation are thought to be prohibitively low 
in this patient and such an extensive operation is therefore not 
indicated. Furthermore, the polyp was not felt to be amenable to 
endoscopic removal. Additionally, patient has a G-tube through 
which he was receiving medications but would develop subsequent 
aspiration events with medications. Given development of 
recurrent aspiration pneumonia as below, patient was made strict 
NPO. His J-tube was initially replaced at the beginning of his 
hospitalization by ___ given concern for leaking; he had 
previously received TFs via J-tube but given development of 
recurrent aspiration pneumonia as below, tube feeds were held 
and J-tube was subsequently hooked up to intermittent suction. 
CT A/P obtained demonstrated ileus without obvious obstruction. 
Given recurrent aspirations with tube feeds and frequent holding 
of tube feeds during these events, patient was started on TPN. 
Given ___ talk with transition to CMO in the setting of multiple 
hospitalizations for recurrent aspirations, TPN was subsequently 
discontinued. 

#Goals of care. Meeting held between palliative care, legal 
guardian ___, and members of DDS and patient's group 
home to discuss goals of care moving forward. In review, patient 
has had 15 admissions for recurrent aspiration events over the 
past calendar year, and over 20 in the past ___ years. He has had 
significant declines in his functional and clinical status. 
Despite patient's extensive workup there has not been a 
reversible cause found for his recurrent aspiration events and 
he is likely to suffer aspiration events in the future that can 
be fatal. In discussion between medical team members and 
patient's representatives, it was felt to be appropriate to 
focus on his quality of life going forward rather than on 
further life prolonging treatments, with transition to CMO. TPN 
will be discontinued and he will return to having medications 
related to comfort slowly administered through G-tube.

#Aspiration pneumonia. ___ hospital course was c/b 
intermittent desaturations thought to be due to aspiration from 
increased secretions and GJ tube dysfunction (with medications 
and tube feeds). He initially improved with suctioning and 
leaving the G tube to gravity but then required a brief stay in 
the ICU for desaturation to SpO2 60___s with altered mental 
status. He was felt to have developed a recurrent aspiration 
pneumonia given CT chest with worsening bilateral opacities, 
leukocytosis, and fevers. He was treated for HAP with IV 
vanco/IV cefepime/IV flagyl for a 7 day course. His respiratory 
status improved and he was weaned to RA upon transfer from MICU. 


___. Likely pre-renal azotemia in the setting of TFs being 
intermittently held (given aspirations). Cr downtrended with 
IVF.

CHRONIC ISSUES:
===============
#Seizure disorder. Transition back to po Ativan via G-tube. 

#Anxiety. Discontinued Paroxetine and Gabapentin given 
transition to CMO

#Hypothyroidism. Discontinued Synthroid given transition to CMO

#GERD: Discontinued Lansoprazole given transition to CMO

TRANSITIONAL ISSUES
===================
[ ] Per discussion with group home, will administer medications 
related to comfort slowly through G-tube.
#CODE: DNR/DNI
#CONTACT: ___, ___ (Legal Guardian)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Milk of Magnesia 30 mL PO QHS - administer via G-tube
2. Milk of Magnesia 30 mL PO PRN Constipation - First Line - 
administer via G-tube
3. Albuterol 0.083% Neb Soln 1 NEB IH Q6H 
4. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY - 
administer via G-tube
5. Levothyroxine Sodium 100 mcg PO 3X/WEEK (___) - 
administer via G-tube
6. Levothyroxine Sodium 75 mcg PO 4X/WEEK (___) - 
administer via G-tube
7. LORazepam 1 mg PO Q8H:PRN anxiety - administer via G-tube
8. Gabapentin 1200 mg PO QHS - administer via G-tube
9. OXcarbazepine 150 mg PO TID - administer via G-tube
10. PARoxetine 30 mg PO DAILY - administer via G-tube
11. nystatin 100,000 unit/gram topical BID 
12. Calmoseptine (menthol-zinc oxide) 0.44-20.6 % topical TID 
13. Ondansetron 4 mg PO Q6H:PRN Nausea/Vomiting - First Line - 
administer via G-tube
14. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever - 
administer via G-tube
15. Fleet Enema (Mineral Oil) 1 Enema PR ONCE:PRN if no BM in 3 
days 
16. Lactulose 30 mL PO DAILY:PRN if no BM in 2 days - administer 
via G-tube
17. Bisacodyl 10 mg PR ONCE:PRN Constipation - Second Line - 
administer via G-tube
18. Creon 12 1 CAP PO ONCE:PRN if G tube is clogged - administer 
via G-tube
19. budesonide 0.5 mg/2 mL inhalation BID 
20. Artificial Tear Ointment 1 Appl BOTH EYES QID apply both 
eyes 

 
Discharge Medications:
1.  Morphine Sulfate (Oral Solution) 2 mg/mL 2 mg PO Q1H:PRN 
pain and/or breathing issues 
RX *morphine 10 mg/5 mL 1 cc by mouth q1 Refills:*0 
2.  Nystatin Cream 1 Appl TP BID 
RX *nystatin 100,000 unit/gram apply to affected areas on 
buttocks twice a day Refills:*3 
3.  LORazepam 0.5 mg PO BID 
RX *lorazepam 0.5 mg 1 tab by mouth twice a day Disp #*60 Tablet 
Refills:*0 
4.  LORazepam 0.5 mg PO Q8H:PRN anxiety 
RX *lorazepam 0.5 mg 1 tab by mouth every six (6) hours Disp 
#*60 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
==================
#DUODENAL HYPERPLASIA/POLYP
#DEVELOPMENTAL DELAY
#SEVERE PROTEIN-CALROIE MALNUTRITION
#J TUBE LEAK
#ASPIRATION PNEUMONIA

SECONDARY DIAGNOSES
===================
#SEIZURE DISORDER
#ANXIETY
#HYPOTHYROIDISM
#ASTHMA
#GERD

 
Discharge Condition:
Mental Status: Confused - always.
Activity Status: Bedbound.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear ___,
 
It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You have had obstructive symptoms with imaging concerning for 
a mass in the duodenum that could have been the source of your 
obstruction
- You developed recurrent aspiration events, which has been 
happening quite frequently this year.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You received an endoscopy and biopsies of the mass which shows 
that it is benign and without concern for cancer
- The risks of removal outweigh its benefits so surgery is not 
an option
- You developed recurrent aspiration events and an aspiration 
pneumonia
- Given lack of intervenable options to fix the source of your 
aspirations, your care has been transitioned towards comfort 
focused and symptom based treatment

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take your medicines as prescribed.

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___